US09107916B2
A. (2-butan-2-yloxy-4-chlorophenyl)methanol
The title compound was prepared from 5-chloro-2-(hydroxymethyl)phenol (PREPARATION 7) and 2-bromobutane according to the procedure for the preparation of Example 111, part A. 1H NMR (400 MHz, CDCl3): δ 0.98 (3H, t, J=7.6 Hz), 1.32 (3H, d, J=6.0 Hz), 1.65-1.79 (2H, m), 2.30 (1H, t, J=6.8 Hz), 4.32-4.40 (1H, m), 4.62 (2H, d, J=6.4 Hz), 6.85 (1H, d, J=1.6 Hz), 6.89 (1H, dd, J=1.6 Hz, 7.6 Hz), 7.19 (1H, d, J=8.4 Hz).

reactant | 5-chloro-2-(hydroxymethyl)phenol | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | 2-bromobutane | BrC(C)CC | C4H9Br
product | (2-butan-2-yloxy-4-chlorophenyl)methanol | CC(CC)OC1=C(C=CC(=C1)Cl)CO | C11H15ClO2
